US07977351B2
2-{3-[(2-Methoxy-ethyl)-methyl-amino]-propyl}-7H-furo[3,4-b]pyridin-5-one
In a process similar to that described in Preparation 8, 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde (76 mg, 0.4 mmol) and N-(2-methoxyethyl)methylamine (43 μL, 0.4 mmol) are reacted to provide the title compound as pale yellow oil (90 mg, 85%).

reactant | 3-(5-Oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propionaldehyde | 0.4 mmol, 76 mg | O=C1OCC2=NC(=CC=C21)CCC=O | C10H9NO3
reactant | N-(2-methoxyethyl)methylamine | 0.4 mmol, 43 μL | COCCNC | C4H11NO
product | 2-{3-[(2-Methoxy-ethyl)-methyl-amino]-propyl}-7H-furo[3,4-b]pyridin-5-one | 90 mg, 85% | COCCN(CCCC1=CC=C2C(=N1)COC2=O)C | C14H20N2O3
